US05905084
5-chloro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine
To a solution of 0.66 gm (4.3 mMol) 5-chloropyrrolo-[3,2-b]pyridine in 50 mL methanol were added 1.09 gm (47.6 mMol) sodium. The reaction mixture was stirred until all of the sodium had dissolved and then 1.6 mL (13 mMol) 1-methyl-4-piperidone were added. The reaction mixture was stirred at reflux for 7.5 hours and was then cooled to 0° C. To this mixture were then added hydrochloric acid until the pH of the solution was about 8. The reaction mixture was then concentrated under reduced pressure to an oil. This oil was dissolved in 3:1 chloroform:isopropanol and the resulting solution was washed sequentially with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. The remaining organics were dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with dichloromethane containing from 0-10% methanol. Fractions containing product were concentrated under reduced pressure to provide 0.30 gm (28%) of the title compound.

reactant | 5-chloropyrrolo-[3,2-b]pyridine | 4.3 mMol, 0.66 gm | ClC1=CC=C2C(=N1)C=CN2 | C7H5ClN2
reactant | sodium | 47.6 mMol, 1.09 gm | [Na] | Na
reactant | 1-methyl-4-piperidone | 13 mMol, 1.6 mL | CN1CCC(CC1)=O | C6H11NO
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 5-chloro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | 0.30 gm, 28% | ClC1=CC=C2C(=N1)C(=CN2)C=2CCN(CC2)C | C13H14ClN3
